US04820734
A solution of 50.5 g (163 mmol) of rac-(2S*)-2-[(R*)-3,4-dimethoxy-α-(nitromethyl)benzyl]cyclohexanone in 500 ml of dry tetrahydrofuran is added dropwise while stirring to a suspension of 15.4 g (407 mmol) of lithium aluminium hydride in 350 ml of dry tetrahydrofuran under argon so that the temperature does not exceed 50°. The reaction mixture is stirred at 50° overnight and treated, after cooling, firstly with ethanol and subsequently with tetrahydrofuran/water (1:1). The separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is evaporated. The oily crude product obtained is converted into the hydrochloride which is recrystallized from alcohol. There is obtained rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-3,4-dimethoxybenzyl]cyclohexanol hydrochloride of m.p. 216°-218°.

reactant | rac-(2S*)-2-[(R*)-3,4-dimethoxy-α-(nitromethyl)benzyl]cyclohexanone | 163 mmol, 50.5 g | COC=1C=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=CC1OC | C16H21NO5
reactant | lithium aluminium hydride | 407 mmol, 15.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloride | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | O1CCCC1.O
product | rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-3,4-dimethoxybenzyl]cyclohexanol hydrochloride | Cl.NC[C@@H](C1=CC(=C(C=C1)OC)OC)[C@@H]1[C@@H](CCCC1)O | InChI=1S/C16H25NO3.ClH/c1-19-15-8-7-11(9-16(15)20-2)13(10-17)12-5-3-4-6-14(12)18;/h7-9,12-14,18H,3-6,10,17H2,1-2H3;1H/t12-,13+,14-;/m1./s1
